US06749771B1
A suspension of [1,1′;4′,1″]terphenyl-4,4″-dicarboxylic acid (6.37 g, 20 mmol) in 100 ml of thionyl chloride was heated at reflux for 12 h then thionyl chloride was evaporated by azeotropic distillation. The crude yellow residue obtained therefrom was mixed with 10-undecen-1-ol (7.49 g, 44 mmol) in dichloromethane (300 ml) and triethylamine (8.9 g, 88 mmol) was added dropwise to the resulting mixture. The reaction mixture was stirred at 6 h at room temperature, then poured into water (300 ml) and extracted with dichloromethane (2×400 ml). The combined organic extracts were washed with saturated NaCl solution (500 ml), dried over magnesium sulphate, filtered and evaporated to dryness to give a brownish residue which was recrystallised from acetone/dichlorometane: 9/1 to afford pure [1,1′;4′,1″]terphenyl-4,4″-dicarboxylic acid diundec-10-enyl ester as white crystalline material. Yield 8.97 g.

reactant | [1,1′;4′,1″]terphenyl-4,4″-dicarboxylic acid | 20 mmol, 6.37 g | C1(=CC=C(C=C1)C(=O)O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C20H14O4
reactant | 10-undecen-1-ol | 44 mmol, 7.49 g | C(CCCCCCCCC=C)O | C11H22O
reactant | triethylamine | 88 mmol, 8.9 g | C(C)N(CC)CC | C6H15N
reactant | water | 300 ml | O | H2O
solvent | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | [1,1′;4′,1″]terphenyl-4,4″-dicarboxylic acid diundec-10-enyl ester | C(CCCCCCCCC=C)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCCCCCCCCCC=C | C42H54O4
